US04680391
A solution of 2.16 g of 3-azido-4-carboethoxy-1-(p-methoxyphenyl)-azetidine-2-one in ethanol was hydrogenated with palladium to yield 4-carboethoxy-1-(p-methoxyphenyl)-3-aminoazetidin-2-one. This amine was acylated with 1.1 ml of trifluoro acetic anhydride in 10 ml CH2Cl2 containing 1.5 ml pyridine, followed by methylation using 1 ml dimethyl sulfate in 30 ml acetone containing 3 g potassium carbonate. After isolation, the crude product was crystallized to give 2.2 g of 4-carboethoxy-1-(p-methoxyphenyl)-3-(N-methyltrifluoroacetamido)azetidine-2-one, m.p. 102°-104°.

reactant | 3-azido-4-carboethoxy-1-(p-methoxyphenyl)-azetidine-2-one | 2.16 g | N(=[N+]=[N-])C1C(N(C1C(=O)OCC)C1=CC=C(C=C1)OC)=O | C13H14N4O4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 4-carboethoxy-1-(p-methoxyphenyl)-3-aminoazetidin-2-one | C(=O)(OCC)C1C(C(N1C1=CC=C(C=C1)OC)=O)N | C13H16N2O4
